US06528510B1
4-Methyl-1-thiophen-3-yl-pentan-3-one
The title compound was prepared according to General Method 4b using 3-bromothiophene (20 mmol), 4-methyl-1-penten-3-ol (30 mmol), sodium iodide (0.7 mmol), sodium bicarbonate (24 mmol), triphenylphosphine (0.6 mmol), DMF (15 mL), and palladium acetate (0.2 mmol). The title compound was flash chromatographed using EtOAc:hexane (5:95 to 10:90).

reactant | 3-bromothiophene | 20 mmol | BrC1=CSC=C1 | C4H3BrS
reactant | 4-methyl-1-penten-3-ol | 30 mmol | CC(C(C=C)O)C | C6H12O
reactant | sodium iodide | 0.7 mmol | [I-].[Na+]
reactant | sodium bicarbonate | 24 mmol | C([O-])(O)=O.[Na+]
reactant | triphenylphosphine | 0.6 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.2 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-1-thiophen-3-yl-pentan-3-one | CC(C(CCC1=CSC=C1)=O)C | C10H14OS
